US06908936B2
1-[1-(2-Methylsulfinyl-ethyl)-1H-benzimidazol-2-ylmethyl]-1H-benzotriazole
1-[1-(2-Methylthio-ethyl)-1H-benzimidazol-2-ylmethyl]-1 H-benzotriazole (100 mg, 0.31 mmol) was dissolved in acetic acid (5 mL). Sodium perborate tetrahydrate (52 mg, 0.34 mmol) was added. The reaction mixture was stirred at 50° C. under nitrogen overnight. The acetic acid was evaporated under reduced pressure. Column chromatography (EtOAc, then EtOAc:MeOH=4:1) gave 84 mg (80%) of the title compound as a pale yellow solid.

reactant | 1-[1-(2-Methylthio-ethyl)-1H-benzimidazol-2-ylmethyl]-1 H-benzotriazole | 0.31 mmol, 100 mg | CSCCN1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C17H17N5S
reactant | Sodium perborate tetrahydrate | 0.34 mmol, 52 mg | B1(OO1)[O-].O.O.O.O.[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 1-[1-(2-Methylsulfinyl-ethyl)-1H-benzimidazol-2-ylmethyl]-1H-benzotriazole | 84 mg, 80% | CS(=O)CCN1C(=NC2=C1C=CC=C2)CN2N=NC1=C2C=CC=C1 | C17H17N5OS
